US04999356
A mixture of 5.0 g of 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole, 2.6 g of potassium carbonate, 2.2 g of allyl bromide, and 75 ml of dimethylformamide was stirred at 70°-75° for 16 hours, and then at ambient temperature for 48 hours. The mixture was poured into water and the aqueous mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to produce an oil. The oil was dissolved in ethyl acetate and a saturated solution of hydrogen bromide in ethyl acetate was added, dropwise, until the solution was acidic. A precipitate was formed and collected. Recrystallization of the precipitate from ethanol gave 2.3 g (33%) of 3-[4-(2-propenyl)-1-piperazinyl)-1-(4-fluorophenyl)-1H-indazole hydrobromide.

reactant | 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole | 5.0 g | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H17FN4
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.2 g | C(C=C)Br | C3H5Br
reactant | hydrogen bromide | Br | BrH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-[4-(2-propenyl)-1-piperazinyl)-1-(4-fluorophenyl)-1H-indazole hydrobromide | 2.3 g, 33% | Br.C(C=C)N1CCN(CC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)F | InChI=1S/C20H21FN4.BrH/c1-2-11-23-12-14-24(15-13-23)20-18-5-3-4-6-19(18)25(22-20)17-9-7-16(21)8-10-17;/h2-10H,1,11-15H2;1H
